US08084448B2
A. 1,3-Dimethoxy-2-methylsulfanylbenzene
To a solution of 1,3-dimethoxybenzene (1.94 mL, 15 mmol) and TMEDA (2.35 mL, 15.75 mmol) in ether (40 mL) a under nitrogen atmosphere at 0° C. is added dropwise n-BuLi (9.84 mL, 1.6M in hexane, 15.75 mmol). The mixture is stirred at 0° C. for 30 min then dimethyl disulfide (1.33 mL, 15 mmol) is added and stirring is continued at RT for 30 min. The mixture is poured into dilute sulfuric acid and the ether layer is separated. The aqueous is extracted with ether. The ether solutions are combined and washed with water and brine then dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound as a white solid.

reactant | 1,3-dimethoxybenzene | 15 mmol, 1.94 mL | COC1=CC(=CC=C1)OC | C8H10O2
reactant | TMEDA | 15.75 mmol, 2.35 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 15.75 mmol, 1.6M, 9.84 mL | [Li]CCCC
reactant | dimethyl disulfide | 15 mmol, 1.33 mL | CSSC | C2H6S2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | 40 mL | CCOCC | C4H10O
product | 1,3-Dimethoxy-2-methylsulfanylbenzene | COC1=C(C(=CC=C1)OC)SC | C9H12O2S
